US04840953
Preparation of 3-carboxy-9-(dimethylcarbamoyl)thio-4Hpyrido[1,2-a]pyrimidin-4-one Ib-81.
A mixture of 0.508 g of 9-(dimethylcarbamoyl)thio-3-(4-methoxybenzyloxycarbonyl)-4H-pyrido[1,2-a]pyrimidin-4-one Ib-82, 2,5 g of anisole and 5 ml of dry methylene chloride is cooled with ice water, mixed with 5 ml of trifluoroacetic acid and stirred under cooling with ice water for 3 hours. The reaction mixture is concentrated in vacuo to dryness, and the residue is washed with ether to give 0.32 g of crude product, which is recrystallized from 95% ethanol to give the titled compound Ib-81.

reactant | 9-(dimethylcarbamoyl)thio-3-(4-methoxybenzyloxycarbonyl)-4H-pyrido[1,2-a]pyrimidin-4-one | 0.508 g | CN(C(=O)SC1=CC=CN2C1=NC=C(C2=O)C(=O)OCC2=CC=C(C=C2)OC)C | C20H19N3O5S
reactant | anisole | 2,5 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-carboxy-9-(dimethylcarbamoyl)thio-4Hpyrido[1,2-a]pyrimidin-4-one | C(=O)(O)C1=CN=C2N(C1=O)C=CC=C2SC(N(C)C)=O | C12H11N3O4S
